US05561148
1 Equivalent of NaH is added to a solution of 1.7 g of Na p-methoxycarbonylmethylphenoxide (obtainable by converting p-hydroxybenzyl cyanide into the corresponding carboxylic acid, esterifying with methanol to give p-methoxycarbonylmethylphenol and subsequently converting the latter into the phenoxide) in 20 ml of dimethylformamide (DMF), and the mixture is stirred at room temperature for 30 min. After that, 3.0 g of 3-p-cyanophenyl-5-methanesulfonyloxymethyloxazolidin-2-one ("A") (obtainable by reacting p-aminobenzonitrile with 2,3-epoxypropan-1-ol to give p-(N-2,3-dihydroxypropylamino)benzonitrile, reacting the latter with diethyl carbonate in the presence of K tert-butoxide to give 3-p-cyanophenyl-5-hydroxymethyloxazolidin-2-one and subsequently esterifying the latter with methanesulfone chloride), dissolved in 10 ml of DMF, are added and the mixture is once again stirred at room temperature for 15 min. Following removal of the solvent, and the customary working-up, 3-p-cyanophenyl-5-(p-methoxycarbonylmethylphenoxymethyl)oxazolidin-2-one is obtained, M.p. 114°-115°.

reactant | phenoxide | [O-]C1=CC=CC=C1
reactant | 3-p-cyanophenyl-5-methanesulfonyloxymethyloxazolidin-2-one | 3.0 g | C(#N)C1=CC=C(C=C1)N1C(OC(C1)COS(=O)(=O)C)=O | C12H12N2O5S
reactant | p-aminobenzonitrile | NC1=CC=C(C#N)C=C1 | C7H6N2
reactant | 2,3-epoxypropan-1-ol | O1C(CO)C1 | C3H6O2
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | p-(N-2,3-dihydroxypropylamino)benzonitrile | OC(CNC1=CC=C(C#N)C=C1)CO | C10H12N2O2
